US07148234B2
STEP 1. 2-[4-(2-Methyl-6-nitroanilino)phenyl]ethanol
The title compound was prepared according to the procedure described in step 1 Example 45 from 6-methyl-2-nitroaniline and 4-bromophenylethyl alcohol.

reactant | 6-methyl-2-nitroaniline | CC1=CC=CC(=C1N)[N+](=O)[O-] | C7H8N2O2
reactant | 4-bromophenylethyl alcohol | BrC1=CC=C(C=C1)CCO | C8H9BrO
product | 2-[4-(2-Methyl-6-nitroanilino)phenyl]ethanol | CC1=C(NC2=CC=C(C=C2)CCO)C(=CC=C1)[N+](=O)[O-] | C15H16N2O3
